US05668289
Step B: 6-Cyclopropyl-3-nitro-2-(1H)-pyridinone
A mixture of crude β-N,N-dimethylaminoethenylcyclopropyl ketone (12 g, <86 mmol), nitroacetamide (9 g, 86 mmol) and aqueous piperidinium acetate (10 ml) [prepared from glacial acetic acid (42 ml), water (100 ml) and piperidine (72 ml)] was stirred at room temperature overnight. Following dilution with water (20 ml), the yellow precipitate was isolated via filtration and drying in vacuo to yield 5.30 g of the title compound: 1H NMR (CDCl3) δ 1.15 (m, 2 H), 1.36 (m, 2 H), 2.10 (m, 1 H), 6.02 (br d, J=8.0 Hz, 1 H), 8.41 (d, J=8.0 Hz, 1 H).

reactant | β-N,N-dimethylaminoethenylcyclopropyl ketone | <86 mmol, 12 g | CN(C)C=CC(=O)C1CC1 | C8H13NO
reactant | nitroacetamide | 86 mmol, 9 g | [N+](=O)([O-])CC(=O)N | C2H4N2O3
reactant | piperidinium acetate | 10 ml | C(C)(=O)[O-].[NH2+]1CCCCC1
solvent | water | 20 ml | O | H2O
product | 6-Cyclopropyl-3-nitro-2-(1H)-pyridinone | 5.30 g | C1(CC1)C1=CC=C(C(N1)=O)[N+](=O)[O-] | C8H8N2O3
